US08048899B2
To a solution of 123 g (0.44 mol) of 2-methyl-2-(tetrahydro-pyran-4-ylmethanesulfonyl)-propionic acid ethyl ester in THF (450 mL) are added 663 mL of 2M aqueous sodium hydroxide solution (1.33 mol). The reaction is stirred at room temperature for 1 h. To the reaction mixture is added TBME (1.25 L) and the layers are separated. The aqueous layer is cooled in an ice bath and then acidified with 37% aqueous HCl solution (123 mL). The resulting precipitate is isolated by filtration, washed with water (200 mL) and dried under reduced pressure at 50° C. to afford 101 g of 2-methyl-2-(tetrahydro-pyran-4-ylmethanesulfonyl)-propionic acid as white crystalline solids. Yield: 91%; ES-MS: m/z 251 [M+H]; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.31-1.45 (2H, m), 1.49 (6H, s), 1.70-1.79 (2H, m), 2.13-2.28 (1H, m), 3.24 (2H, d, J=6.60 Hz), 3.28-3.38 (2H, m), 3.76-3.85 (2H, m), 13.65 (1H, br. s.)

reactant | 2-methyl-2-(tetrahydro-pyran-4-ylmethanesulfonyl)-propionic acid ethyl ester | 0.44 mol, 123 g | C(C)OC(C(C)(S(=O)(=O)CC1CCOCC1)C)=O | C12H22O5S
reactant | sodium hydroxide | 1.33 mol, 2M, 663 mL | [OH-].[Na+]
reactant | TBME | 1.25 L | CC(C)(C)OC | C5H12O
solvent | THF | 450 mL | C1CCOC1 | C4H8O
product | 2-methyl-2-(tetrahydro-pyran-4-ylmethanesulfonyl)-propionic acid | 101 g, Yield: 91% | CC(C(=O)O)(C)S(=O)(=O)CC1CCOCC1 | C10H18O5S
